US07989444B2
Preparation 27: 1,1-dimethylethyl 4-(methylsulfonyl)-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate
1,1-dimethylethyl 7-hydroxy-8-[(methylsulfonyl)amino]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (0.55 g) and 1,2-dibromoethane (0.23 ml) in the presence of potassium carbonate (0.4 g) were heated in acetone/water (1/1, 8 ml) for 6 h at reflux. Volatiles were evaporated under reduced pressure, the residue was partitioned between aqueous NaHCO3 and DCM. The organic layer was collected and the aqueous phase extracted twice with DCM. The combined organic layers were concentrated and submitted to column chromatography to provide the title compound (0.75 mmol) as a white slightly hygroscopic solid. MS (m/z): 383 [MH]+.

reactant | 1,1-dimethylethyl 7-hydroxy-8-[(methylsulfonyl)amino]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 0.55 g | OC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1NS(=O)(=O)C | C16H24N2O5S
reactant | 1,2-dibromoethane | 0.23 ml | BrCCBr | C2H4Br2
reactant | potassium carbonate | 0.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone water | 8 ml | CC(=O)C.O
product | 1,1-dimethylethyl 4-(methylsulfonyl)-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate | 0.75 mmol | CS(=O)(=O)N1CCOC=2C1=CC1=C(CCN(CC1)C(=O)OC(C)(C)C)C2 | C18H26N2O5S
